US07211668B2
N-[2-(5-Phenyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-[2-(5-phenyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester with (thymin-1-yl)-acetic acid as per the procedure of example 13. 1H NMR (500 MHz; DMSO-d6) δ 11.28 (s, 0.6H), 11.26 (s, 0.4H), 9.08 (brs, 1H), 8.05 (d, 2H), 7.66–7.57 (m, 3H), 7.32 (s, 0.6H), 7.24 (s, 0.4H), 4.65 (s, 1.2H), 4.47 (s, 0.8H), 4.32 (s, 0.8H), 4.16 (q, 0.8H), 4.06 (q, 1.2H), 4.04 (s, 1.2H), 3.56 (t, 1.2H), 3.43–3.38 (m, 2H), 3.24 (t, 0.8H), 1.73 (s, 3H), 1.21 (t, 1.2H), 1.16 (t, 1.8H).

reactant | N-[2-(5-phenyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=CC=CC=C1)=O | C14H18N4O4S2
reactant | (thymin-1-yl)-acetic acid | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | N-[2-(5-Phenyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=CC=CC=C1)=O | C21H24N6O7S2
